US08193347B2
t-Butyl trichloroacetimidate (TBTA):
Potassium t-butoxide (1M in t-butanol), 69 mL (0.069 mole), was dissolved in diethyl ether, 69 mL. This solution was added dropwise, over 30 minutes, to a cold, 0° C., solution of trichloroacetonitrile, 100 g (0.69 mole), in diethyl ether, 69 mL. The mixture was allowed to warm to room temperature over one hour, and was then stirred for an additional hour with heating at reflux. The mixture was cooled to room temperature and evaporated under reduced pressure to yield an oil. The oil was dissolved in hexanes, 140 mL, and filtered to remove potassium salts. The filtrate was evaporated under reduced pressure and the residue was vacuum distilled. The fraction distilling at 2.4 mm Hg and 40° C. was collected. The yield was 105 g, 69% based on trichloroacetonitrile. 1H nmr (300 MHz CDCl3) δ (ppm): 1.58, (s, 9H), 8.21 (br, s, 1H). 13C (75.45 MHz, CDCl3) δ (ppm): 27.23, 83.86, 92.78, 160.33. (Armstrong et al.)

reactant | Potassium t-butoxide | 1M | CC(C)([O-])C.[K+]
reactant | trichloroacetonitrile | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | t-Butyl trichloroacetimidate | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
